US05889026
A solution of 3-(4-Benzyl-4-hydroxy-piperidin-1-yl)-N-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-propionamide (0.71 g, 1.51 mmol) in THF (4 ml) was added dropwise to a 0° C. suspension of LiAlH4 (0.115 g, 3.02 mmol) in THF (4 ml). The reaction mixture was refluxed during 30 min, cooled to 0° C. and quenched carefully with H2O (5 ml). After dilution with H2O (20 ml), the reaction mixture was treated successively with 2N HCl and sat. NaHCO3. The aqueous phase was extracted with CH2Cl2 (3×10 ml), the combined organic phases were dried over Na2SO4 and concentrated. The residue was chromatographed over silica gel (CH2Cl2 --MeOH 9:1 then 4:1) to give a foam which was dissolved in MeOH and treated with excess HCl/ether. The solution was concentrated and the residue was dissolved with EtOH. Addition of ether provided 4-Benzyl-1-[3-(4-hydroxy-phenylamino)-propyl]-piperidin-4-ol hydrochloride (0.160 g, 26%) as beige solid, m.p. 213°-216° C. and MS: m/e=341.5 (M+H+).

reactant | 3-(4-Benzyl-4-hydroxy-piperidin-1-yl)-N-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-propionamide | 1.51 mmol, 0.71 g | C(C1=CC=CC=C1)C1(CCN(CC1)CCC(=O)NC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)O | C27H40N2O3Si
reactant | LiAlH4 | 3.02 mmol, 0.115 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | HCl ether | Cl.CCOCC
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | 4-Benzyl-1-[3-(4-hydroxy-phenylamino)-propyl]-piperidin-4-ol hydrochloride | 0.160 g, 26% | Cl.C(C1=CC=CC=C1)C1(CCN(CC1)CCCNC1=CC=C(C=C1)O)O | InChI=1S/C21H28N2O2.ClH/c24-20-9-7-19(8-10-20)22-13-4-14-23-15-11-21(25,12-16-23)17-18-5-2-1-3-6-18;/h1-3,5-10,22,24-25H,4,11-17H2;1H
